US04152433
To a mixture of 2,2,2-trichloroethyl 2-methyl-7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylate (a mixture of syn and anti isomers) (0.94 g.) and ethanol (10 ml.) was added thiourea (0.12 g.), and the mixture was stirred for 40 minutes at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was shaken with ethyl acetate and water. The ethyl acetate layer was separated, and the remaining aqueous layer was neutralized with sodium bicarbonate and then extracted with ethyl acetate. Thus obtained ethyl acetate layers were combined together, washed with water, dried over magnesium sulfate, treated with activated charcoal and then concentrated under reduced pressure. The residue was pulverized in diethyl ether, collected by filtration and then dried to give 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), which can be represented as 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), (0.6 g.). This compound was subjected to column chromatography on silica gel using a mixed solvent of benzene, ethyl acetate and acetic acid (10:10:1) as a developer, and the eluates containing the object compound were collected, washed with water, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was pulverized in diethyl ether, collected by filtration and then dried to give pale brown powder of the purified object compound (syn isomer) (0.16 g.), mp 128° to 149° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C(CBr)=O)=NOC)=O)=O | C15H15BrCl3N3O6S
reactant | thiourea | 0.12 g | NC(=S)N | CH4N2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | C16H16Cl3N5O5S2
